US08703761B2
[2-Amino-4-(4-fluoro-phenyl)-thiazol-5-yl]-(4-fluoro-phenyl)-methanone
1,3-Bis-(4-fluoro-phenyl)-propane-1,3-dione and NBS (1.05 eq) were heated neat at 60° C. for 10 minutes then cooled. The resulting mixture was dissolved in ethanol (0.2 M) and treated with thiourea (1.5 eq). It was heated at reflux for 15 hours and cooled to room temperature. It was evaporated to dryness and the residue was partioned between EtOAc and saturated NaHCO3. Organic fraction was dried over MgSO4, filtered and concentrated. The title compound was collected by trituration with heptanes. 1H NMR (400 MHz, DMSO-d6) 6.86-7.01 (m, 4H) 7.22-7.32 (m, 2H) 7.35-7.45 (m, 2H) 8.11 (br. s., 2H). LCMS Method A Rt=1.18 m/z 317.0 (M+1), 315 (M−1).

reactant | 1,3-Bis-(4-fluoro-phenyl)-propane-1,3-dione | FC1=CC=C(C=C1)C(CC(=O)C1=CC=C(C=C1)F)=O | C15H10F2O2
reactant | NBS | 1.05 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | thiourea | 1.5 eq | NC(=S)N | CH4N2S
solvent | ethanol | 0.2 M | C(C)O | C2H6O
product | [2-Amino-4-(4-fluoro-phenyl)-thiazol-5-yl]-(4-fluoro-phenyl)-methanone | NC=1SC(=C(N1)C1=CC=C(C=C1)F)C(=O)C1=CC=C(C=C1)F | C16H10F2N2OS
